US06444617B1
Production of 6-(3-Chloro-2,6-diethylphenyl)aminocarbonyl-l-methyl-pyrazolo[5,4-b]pyridine-5-carboxylic Acid
In 100 ml of tetrahydrofuran was dissolved 8.0 g (39.4 mmol) of 1-methyl-pyrazolo[5,4-b]pyridine-5,6-dicarboxylic acid anhydride. After adding 7.23 g (39.4 mmol) of 3-chloro-2,6-diethylaniline to the solution obtained above, a reaction was carried out at ambient temperature for 12 hours.

reactant | 1-methyl-pyrazolo[5,4-b]pyridine-5,6-dicarboxylic acid anhydride | 39.4 mmol, 8.0 g | CN1N=CC=2C1=NC1=C(C2)C(=O)OC1=O | C9H5N3O3
reactant | 3-chloro-2,6-diethylaniline | 39.4 mmol, 7.23 g | ClC=1C(=C(N)C(=CC1)CC)CC | C10H14ClN
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
product | 6-(3-Chloro-2,6-diethylphenyl)aminocarbonyl-l-methyl-pyrazolo[5,4-b]pyridine-5-carboxylic Acid | ClC=1C(=C(C(=CC1)CC)NC(=O)C1=C(C=C2C(=N1)N(N=C2)C)C(=O)O)CC | C19H19ClN4O3
